US07045539B2
5-Methoxy-2-aminobenzenethiol hydrochloride (83 g, 4.33 mmol) was dissolved in 1-methyl-2-pyrrolidinone (10 mL). After triethylamine (0.60 mL, 4.33 mmol) was added, the mixture was stirred at room temperature for 10 min. 2-Bromo-3-methoxybenzoyl chloride (1.08 g, 4.33 mmol) in 1-methyl-2-pyrrolidinone (10 mL) was then added and the mixture was heated at 100° C. for 40 min. The mixture was cooled to room temperature and 1N NaOH was added to PH 9. The mixture was extracted with ethylacetate and combined ethylacetate were washed with brine, concentrated. After chromatographic purification gave 6-methoxy-2-(2-bromo-3-methoxy-phenyl)-benzothiazole (0.98 g, 65% yield) as a yellow solid. Mass spec: MH+=350.

reactant | 5-Methoxy-2-aminobenzenethiol hydrochloride | 4.33 mmol, 83 g | Cl.COC=1C=CC(=C(C1)S)N
reactant | triethylamine | 4.33 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Bromo-3-methoxybenzoyl chloride | 4.33 mmol, 1.08 g | BrC1=C(C(=O)Cl)C=CC=C1OC | C8H6BrClO2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 6-methoxy-2-(2-bromo-3-methoxy-phenyl)-benzothiazole | 0.98 g, 65% yield | COC1=CC2=C(N=C(S2)C2=C(C(=CC=C2)OC)Br)C=C1 | C15H12BrNO2S
